US06080773
To a solution of 3 g of 3-bromo-2-(diethoxymethyl)-benzo[b]furan in 80 ml of dry ether under nitrogen at -100° C was added 17.4 ml of a 1.7 M solution of tert-butyllithium in hexanes. The solution was stirred at the low temperature for 2 h then a solution of 2.76 g of N-methoxy-N-methyl-2-fluorobenzamide in 20 ml of dry ether was added and the solution stirred at the low tempertature for 10 min. The solution was then allowed to slowly warm to 0° C., water was added and the organic layer was separated, washed with water and dried over sodium sulfate and evaporated. Gravity chromatography eluting 0 to 50% toluene in heptane afforded 0.91 g of 2-(diethoxymethyl)-3-(2-fluorobenzoyl)-benzo[b]furan as an oil, 1H-NMR (200 MHz, CDCl3) d 5.76 (CHOEt).

reactant | 3-bromo-2-(diethoxymethyl)-benzo[b]furan | 3 g | BrC=1C2=C(OC1C(OCC)OCC)C=CC=C2 | C13H15BrO3
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | N-methoxy-N-methyl-2-fluorobenzamide | 2.76 g | CON(C(C1=C(C=CC=C1)F)=O)C | C9H10FNO2
reactant | water | O | H2O
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-(diethoxymethyl)-3-(2-fluorobenzoyl)-benzo[b]furan | 0.91 g | C(C)OC(C1=C(C2=C(O1)C=CC=C2)C(C2=C(C=CC=C2)F)=O)OCC | C20H19FO4
